US06608089B2
Preparation of 2-propynyloxyxanthen-9-one
A mixture of 2-hydroxyxanthen-9-one (2.12 g, 0.01 mol), K2CO3 (2.8 g, 0.02 mol), Kl (0.166 g, 0.001 mol), propargyl bromide (1.78 g, 0.015 mol) and acetone (100 mL) was refluxed 10 h and hot filtered. The solvent was evaporated and the residue was crystallized by toluene. This yields 2.25 g of a product with the following characteristics: m.p.153-154° C.; 1H NMR (CDCl3) δ: 2.58 (m, 1H), 4.8 (s, 2H), 7.35-8.38 (m, 7H).

reactant | 2-hydroxyxanthen-9-one | 0.01 mol, 2.12 g | OC1=CC=2C(C3=CC=CC=C3OC2C=C1)=O | C13H8O3
reactant | K2CO3 | 0.02 mol, 2.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | propargyl bromide | 0.015 mol, 1.78 g | C(C#C)Br | C3H3Br
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 2-propynyloxyxanthen-9-one | C(#CC)OC1=CC=2C(C3=CC=CC=C3OC2C=C1)=O | C16H10O3
